US08022223B2
Step C: 2,2-dimethyl-5-((4-methylthiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione:
A stirred solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (4.85 g, 34 mmol) in trimethoxymethane (37 mL, 337 mmol) was heated to 90° C. under nitrogen. After 2 hours, a solution was 4-methylthiophen-3-amine (3.81 g, 34 mmol) was added (as a solution in trimethoxymethane (37 mL, 337 mmol). The reaction stirred at 90° C. for 6 hours and then was allowed to cool to room temperature and concentrated. The material was placed in the refrigerator where it solidified after two days to obtain the title compound (9 g, quantitative).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 34 mmol, 4.85 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | trimethoxymethane | 337 mmol, 37 mL | COC(OC)OC | C4H10O3
reactant | 4-methylthiophen-3-amine | 34 mmol, 3.81 g | CC=1C(=CSC1)N | C5H7NS
reactant | trimethoxymethane | 337 mmol, 37 mL | COC(OC)OC | C4H10O3
product | 2,2-dimethyl-5-((4-methylthiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione | 9 g | CC1(OC(C(C(O1)=O)=CNC1=CSC=C1C)=O)C | C12H13NO4S
